US07902203B2
methyl 2-amino-4-(hydroxymethyl)thiophene-3-carboxylate
A solution of methyl cyanoacetate (1.18 mL, 13.28 mmol) and sodium sulfide nonahydrate (3.20 g, 13.28 mmol) in methanol (25 mL) at 0° C. was treated with 1-acetoxy-3-chloroacetone (2.0 g, 13.28 mmol). The cold bath was removed and triethylamine (1.86 mL, 13.28 mmol) was added dropwise. The solution was stirred at room temperature for 20 hours then diluted with water and extracted into ethyl acetate. The organic layer was dried over sodium sulfate, filtered, and the solvent removed under vacuum to provide the titled compound (1.25 g, 51%). MS (DCI/NH3) M/Z 188 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 3.68 (s, 3 H) 4.45 (dd, J=5.52, 1.47 Hz, 2 H) 4.88 (t, J=5.70 Hz, 1 H) 6.12 (s, 1 H) 7.28 (s, 2 H)

reactant | methyl cyanoacetate | 13.28 mmol, 1.18 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | sodium sulfide nonahydrate | 13.28 mmol, 3.20 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 1-acetoxy-3-chloroacetone | 13.28 mmol, 2.0 g | C(C)(=O)OCC(=O)CCl | C5H7ClO3
reactant | triethylamine | 13.28 mmol, 1.86 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 mL | CO | CH4O
solvent | water | O | H2O
product | methyl 2-amino-4-(hydroxymethyl)thiophene-3-carboxylate | 1.25 g, 51% | NC=1SC=C(C1C(=O)OC)CO | C7H9NO3S
